US06251926B1
Potassium tert-butoxide (328 mg) was added to a mixture of methyltriphenylphosphonium bromide (1.14 g) and tetrahydrofuran (10 ml) under nitrogen atmosphere and stirred at room temperature for 1 hour. A solution of ethyl Z-2-(3-benzoylphenyl)-2-[4(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate (1.12 g) in tetrahydrofuran (10 ml) was added dropwise, stirred further for 3 hours, dilute hydrochloric acid was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl Z-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-2-[3-(1-phenylvinyl)phenyl]acetate (880 mg, yield 79%) as a pale brown oil from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | Potassium tert-butoxide | 328 mg | CC(C)([O-])C.[K+]
reactant | ethyl Z-2-(3-benzoylphenyl)-2-[4(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate | 1.12 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)/C(/C(=O)OCC)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C35H30N2O6
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 1.14 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | ethyl Z-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-2-[3-(1-phenylvinyl)phenyl]acetate | 880 mg, yield 79% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/C(=O)OCC)\C2=CC(=CC=C2)C(=C)C2=CC=CC=C2)C=C1 | C36H32N2O5
